US06335343B1
To a round bottomed flask were added 4-benzyloxycarbonylpiperazin-2-one (234.26 mg, 1.0 mmol) along with N,N-dimethylforamide(5.0 ml), and sodium hydride (73.0 mg (60%), 1.0 mmol). After the evolution of hydrogen had ceased the reaction was allowed to stir for an additional 30 minutes. To this was added 1 adamantyl bromomethyl ketone(257.18 mg, 1.0 mmol). The reaction stirred at Rt. for 18 hrs. The reaction was poured into water(25ml) and extracted with ethylacetate(2×25 ml). The ethylacetate layer was washed with brine and dried (MgSO4). Solvent removal yielded 4-benzyloxycarbonyl-[1-(2-oxo-2-(adamant-1-yl)ethyl]piperazin-2-one. 400 Mhz H1 NMR (CDCl3): 1.68-1.91(m,12H), 2.06 (br s,3H), 3.32(t,2H), 3.77(t,2H), 4.20(s,2H), 4.34(s,2H), 5.16(s,2H), 7.36(m,5H). The material was used with out further purification.

reactant | 4-benzyloxycarbonylpiperazin-2-one | 1.0 mmol, 234.26 mg | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | sodium hydride | 1.0 mmol, 73.0 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | adamantyl bromomethyl ketone | 1.0 mmol, 257.18 mg | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
solvent | water | 25ml | O | H2O
solvent | N,N-dimethylforamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 1-(2-oxo-2-(adamant-1-yl)ethyl]piperazin-2-one | O=C(CN1C(CNCC1)=O)C12CC3CC(CC(C1)C3)C2 | C16H24N2O2
